US05342846
N-Benzyl-3-(1,2,4-triazol-1-yl]pyrrolidine
To a solution of 2.55 g (10 mmole) of N-benzyl-3-[(methyl-sulphonyl)oxy]pyrrolidine in 100 ml of dimethylformamide was added 3.21 g of potassium-1,2,4-triazolide and the reaction mixture was heated at 85°-90° C. overnight. The same work up and purification procedure described in Example U afforded 1.32 g (15% methanol-ethyl acetate as solvent) of the title product. 1H NMR (CDCl3) δ: 8.3 (S, 1H), 7.93 (S, 1H), 7.6-7.1 (m, 5H), 5.2-4.6 (m, 1H), 3.67 (S, 2H), 3.23-2 (m, 6H).

reactant | N-benzyl-3-[(methyl-sulphonyl)oxy]pyrrolidine | 10 mmole, 2.55 g | C(C1=CC=CC=C1)N1CC(CC1)OS(=O)(=O)C | C12H17NO3S
reactant | potassium 1,2,4-triazolide | 3.21 g | [K].N1N=[C-]N=C1
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-Benzyl-3-(1,2,4-triazol-1-yl]pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)N1N=CN=C1 | C13H16N4
